US05202243
Step F: Preparation of 2-methoxy-5-ethyl-6-methyl nicotinaldehyde
Activated manganese dioxide (2.0 g) was added to a solution of 2-methoxy-3-hydroxymethyl-5-ethyl-6-methylpyridine (1.18 g, 6.5 mmol) in dry benzene (20 mL) and refluxed 5-10 hours. The warm suspension was filtered through a pad of anhydrous Na2SO4 and evaporated to yield 1.05 g (90%) of a viscous oil which solidified.

reactant | 2-methoxy-3-hydroxymethyl-5-ethyl-6-methylpyridine | 6.5 mmol, 1.18 g | COC1=NC(=C(C=C1CO)CC)C | C10H15NO2
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
catalyst | manganese dioxide | 2.0 g | [O-2].[O-2].[Mn+4]
product | 2-methoxy-5-ethyl-6-methyl nicotinaldehyde | 1.05 g, 90% | COC1=C(C=O)C=C(C(=N1)C)CC | C10H13NO2
